US08486964B2
3-(3-{[1-(4-fluorophenyl)cyclopropyl]carbonyl}-3-azabicyclo[3.1.0]hex-1-yl)-1H-pyrrolo[2, 3-b]pyridine
3-(3-azabicyclo[3.1.0]hex-1-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride (60 mg, 0.3 mmol) was dissolved in DCM (3 ml) and a few drops of DMF, and cooled to 0° C. Then HOBt (38 mg, 0.33 mmol), EDCI (54 mg, 0.33 mmol) were added followed by triethylamine (106 μL) and 1-(4-fluorophenyl)cyclopropanecarboxylic acid (46 mg, 0.3 mmol). The mixture was stirred at RT overnight. The volatiles were removed in vacuo and the residue was purified by column chromatography (DCM/MeOH 97:3) to yield the title compound as a yellow solid (44 mg).

reactant | 3-(3-azabicyclo[3.1.0]hex-1-yl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 0.3 mmol, 60 mg | Cl.C12(CNCC2C1)C1=CNC2=NC=CC=C21
reactant | HOBt | 0.33 mmol, 38 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.33 mmol, 54 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-(4-fluorophenyl)cyclopropanecarboxylic acid | 0.3 mmol, 46 mg | FC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9FO2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | triethylamine | 106 μL | C(C)N(CC)CC | C6H15N
product | 3-(3-{[1-(4-fluorophenyl)cyclopropyl]carbonyl}-3-azabicyclo[3.1.0]hex-1-yl)-1H-pyrrolo[2, 3-b]pyridine | 44 mg | FC1=CC=C(C=C1)C1(CC1)C(=O)N1CC2(CC2C1)C1=CNC2=NC=CC=C21 | C22H20FN3O
